US04830660
Synthesis of 5-amino-4-ethoxycarbonyl-1-(1-methylpyrazol-3-yl)imidazole
In 200 ml of acetonitrile, 6.7 g of ethyl-aminocyanoacetate, 8.5 g of ethyl orthoformate and 5.6 g of 3-amino-1-methylpyrazole were refluxed under heating for 4.5 hours. After completion of the reaction, the solvent was distilled off under reduced pressure. Crystals precipitated was filtered out, followed by washing with ether to give 7.5 g of the desired compound. m.p.: 168° to 170° C.

reactant | ethyl-aminocyanoacetate | 6.7 g | C(C)OC(C(C#N)N)=O | C5H8N2O2
reactant | ethyl orthoformate | 8.5 g | C(OCC)([O-])[O-]
reactant | 3-amino-1-methylpyrazole | 5.6 g | NC1=NN(C=C1)C | C4H7N3
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | 5-amino-4-ethoxycarbonyl-1-(1-methylpyrazol-3-yl)imidazole | 7.5 g | NC1=C(N=CN1C1=NN(C=C1)C)C(=O)OCC | C10H13N5O2
